US05981551
Preparation of 2,5-bis[2-benzimidazolylimino]-3a,6a-bis(4-fluorophenyl)-1,2,3,3a,4,5,6,6a-octahydroimidazo[4,5-d]imidazole
Following the procedure of Example 1, 4,4'-difluorobenzil (1.0 g, 4.06 mmol) and 2-guanidinobenzimidazole (0.6 g, 3.4 mmol) in methanol (40 mL) was treated with a solution of sodium hydroxide (200 mg, 5 mmol) in 5 mL of water. The title compound was isolated as pale yellow crystals (750 mg, 79% yield). MS (ESI) m/z 561 [M+H]+.

reactant | 4,4'-difluorobenzil | 4.06 mmol, 1.0 g | FC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)F | C14H8F2O2
reactant | 2-guanidinobenzimidazole | 3.4 mmol, 0.6 g | N(C(=N)N)C=1NC2=C(N1)C=CC=C2 | C8H9N5
reactant | sodium hydroxide | 5 mmol, 200 mg | [OH-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | 2,5-bis[2-benzimidazolylimino]-3a,6a-bis(4-fluorophenyl)-1,2,3,3a,4,5,6,6a-octahydroimidazo[4,5-d]imidazole | N1=C(NC2=C1C=CC=C2)N=C2NC1(C(NC(N1)=NC=1NC3=C(N1)C=CC=C3)(N2)C2=CC=C(C=C2)F)C2=CC=C(C=C2)F | C30H22F2N10
